2117-04-17 06:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   78yo female with history of multiple medical problems including type 2
   diabetes mellitus, hypertension, obstructive sleep apnea s/p trach
   placement, and breast cancer was admitted with leukocytosis most likely
   related to C. diff and acute renal failure.
   .
   24 Hour Events:
   -bolused 1000ml LR, 500cc nS overnight
   -got D5W @ 75ml for 500
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-4-17**] 06:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.7
C (96.3
   HR: 81 (73 - 95) bpm
   BP: 89/41(53) {76/29(46) - 153/106(145)} mmHg
   RR: 19 (11 - 22) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                  5,080 mL
                                                                  2,059 mL
   PO:
                                                                    280 mL
             TF:
   IVF:
                                                                  2,300 mL
                                                                  2,059 mL
   Blood products:
   Total out:
                                                                     33 mL
                                                                     39 mL
   Urine:
                                                                     33 mL
                                                                     39 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,047 mL
                                                                  2,020 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   Gen: tired appearing elderly female, obese, no acute distress, resting
   in bed
   HEENT: Clear OP, dry mucous membranes
   NECK: Supple, No LAD, No JVD
   CV: RR, NL rate. NL S1, S2. No murmurs, rubs or gallops
   LUNGS: CTA, BS BL, No W/R/C
   ABD: Obese, Soft, NT, ND. NL BS.  No HSM
   EXT: No edema. 2+ DP pulses BL
   SKIN: No lesions
   NEURO: A&Ox3. Appropriate but lethargic. CN 2-12 grossly intact. [**4-27**]
   strength throughout.  Normal coordination. Gait assessment deferred
   Labs / Radiology
   263 K/uL
    mEq/L
    mEq/L
   22.5 %
   25.6 K/uL
        [image002.jpg] not back yet
                             [**2117-4-16**]  09:10 PM
   WBC
   25.6
   Hct
   22.5
   Plt
   263
   Cr
   2.0
   Glucose
   67
   Other labs: Differential-Neuts:91.0 %, Band:7.0 %, Lymph:1.0 %,
   Mono:1.0 %, Eos:0.0 %, Albumin:2.1 g/dL, Ca++:6.7 mg/dL, Mg++:1.3
   mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   78yo female with history of multiple medical problems including type 2
   diabetes mellitus, hypertension, obstructive sleep apnea s/p trach
   placement, and breast cancer was admitted with leukocytosis most likely
   related to C. diff and acute renal failure.
   .
   1. Leukocytosis/c diff +: Pt found to be c diff positive. Given her
   multiple recent hospitalizations and her multiple comorbidities, she is
   certainly at risk for many infections, including pulmonary, GU, or
   bloodstream infections. Plan is the following:
   - continue to treat her C. diff with IV metronidazole and PO vancomycin
   for 14 day course
   - follow-up blood and urine culture
   - follow-up final read of CT Abd/Pelvis and CXR
   .
   2. Concern for sepsis:  Pt dropped SBP to high 70s responding to
   repeated fluid bolus.  Her baseline BPs 110-130s.  Borderline needing
   pressor but no current central access.
   -give FFP (INR 2.4) and then place PICC line vs IJ. Prefer PICC line
   given PEEP and risk for PTX.
   -f/u blood cx
   -maintain Map>60
   -consider A line placement
   .
   3. Hypercarbic respiratory failure: Could be secondary to mental
   status.  Also pt has obesity and OSA.
   -pt placed back on ventilator, get afternoon ABG
   -increasing PEEP given obesity
   -follow daily CXR
   -change PO meds to IV
   .
   4. AMS: Worse this AM likely due to hypercarbic respiratory failure.
   Pt more responsive to family than physicians and thus it is difficult
   to access her mental status.  Monitor today.  If worsens would consider
   LP but afebrile now and no meningeal signs.
   .
   5. Acute Renal Failure
   Patient is in renal failure with creatinine elevated to 2.2 from 1.1 on
   admission and is down to 2 today. Etiology is unclear but is concerning
   for ATN in the setting of hypotension given marked elevation in
   creatinine over 24 hours and given BUN/Creatinine ratio of [**10-7**]:1.
   Prerenal etiology related to dehydration is also possible. No
   additional history to suggest post-renal obstruction.
   - check urine lytes
   - fluid resuscitate to maintain UOP
    .
   5. Hypernatremia: Resolved overnight with D5W
   .
   6. H/o Breast Cancer: Did not get arimidex given pt now on vent and not
   taking POs
   7. Type 2 Diabetes Mellitus  Patient has a history of T2DM and was only
   on insulin sliding scale.
   - continue humalog sliding scale, consider insulin gtt if sugar is not
   well controlled
   8. GERD
   Stable
   - continue PPI
   .
   9. Hyperlipidemia
   Stable
   - continue simvastatin
   10. Atrial Fibrillation
   Patient has a history of atrial fibrillation. She was recently
   restarted on coumadin after her recent admission for GI bleed.
   -d/c coumadin for today given pt needs central access, reverse INR with
   FFP today but would not given vit K
   .
   FEN: replete K+ and Mg and get PM lytes
   .
   Stage II sacral decub:
   -follow
   ICU Care
   Nutrition: NPO on vent
   Glycemic Control:
   Lines:
   PICC Line - [**2117-4-16**] 07:40 PM
   18 Gauge - [**2117-4-16**] 08:41 PM
   Prophylaxis:
   DVT: on coumadin but giving FFP today for line placement
   Stress ulcer: continue PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2117-04-18 07:09:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 78yo female with history of multiple medical problems
   including type 2 diabetes mellitus, hypertension, obstructive sleep
   apnea s/p trach placement, and breast cancer was admitted with
   leukocytosis most likely related to C. diff and acute renal failure.
   24 Hour Events:
   Not started on pressors, had poor urine output all day not responding
   to fluids with CVP >10, but maps stayed above 60.
   Put in RIJ
   Got ID approval for PO vanco, started on CTX IV for GNRs in urine
   Urine lytes had FENA of 0.18.
   Placed A-line
   Got FFP before line
   Checked cardiac enzymes because of hypotension and were negative
   No Casts in Urine
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-4-17**] 09:00 PM
   Metronidazole - [**2117-4-18**] 02:00 AM
   Vancomycin - [**2117-4-18**] 06:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-4-18**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 68 (55 - 79) bpm
   BP: 113/48(68) {92/39(58) - 120/57(77)} mmHg
   RR: 19 (11 - 23) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
    CVP: 8 (6 - 15)mmHg
   Total In:
                                                                  8,765 mL
                                                                    205 mL
   PO:
   TF:
   IVF:
                                                                  8,172 mL
                                                                    205 mL
   Blood products:
                                                                    593 mL
   Total out:
                                                                    350 mL
                                                                     72 mL
   Urine:
                                                                    150 mL
                                                                     72 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,415 mL
                                                                    133 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 356 (241 - 356) mL
   RR (Set): 12
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 35%
   RSBI: 77
   PIP: 21 cmH2O
   Plateau: 24 cmH2O
   SpO2: 98%
   ABG: 7.35/48/87.[**Numeric Identifier 244**]/26/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 251
   Physical Examination
   Gen: tired appearing elderly female, obese, no acute distress, resting
   in bed
   HEENT: Clear OP, dry mucous membranes
   NECK: Supple, No LAD, No JVD
   CV: RR, NL rate. NL S1, S2. No murmurs, rubs or gallops
   LUNGS: CTA, BS BL, No W/R/C
   ABD: Obese, Soft, NT, ND. NL BS.  No HSM
   EXT: No edema. 2+ DP pulses BL
   SKIN: No lesions
   NEURO: A&Ox3. Appropriate but lethargic. CN 2-12 grossly intact. [**4-27**]
   strength throughout.  Normal coordination. Gait assessment deferred
   Labs / Radiology
   330 K/uL
   8.0 g/dL
   80 mg/dL
   2.1 mg/dL
   26 mEq/L
   3.1 mEq/L
   27 mg/dL
   109 mEq/L
   146 mEq/L
   26.5 %
   24.1 K/uL
        [image002.jpg]
                             [**2117-4-16**]  09:10 PM
                             [**2117-4-17**]  06:59 AM
                             [**2117-4-17**]  08:50 AM
                             [**2117-4-17**]  11:48 AM
                             [**2117-4-17**]  03:16 PM
                             [**2117-4-17**]  05:02 PM
                             [**2117-4-18**]  04:10 AM
                             [**2117-4-18**]  04:37 AM
   WBC
   25.6
   33.2
   28.4
   24.1
   Hct
   22.5
   29
   31.4
   26.3
   26.5
   Plt
   263
   317
   334
   330
   Cr
   2.0
   2.3
   2.1
   TropT
   0.11
   TCO2
   34
   33
   30
   28
   Glucose
   67
   130
   99
   80
   Other labs: PT / PTT / INR:33.5/56.8/3.5, CK / CKMB /
   Troponin-T:31/3/0.11, Differential-Neuts:90.5 %, Band:1.0 %, Lymph:6.0
   %, Mono:3.3 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Ca++:7.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:2.9 mg/dL
   Urine
 GNR
   [**4-17**] C Diff - Negative
   Assessment and Plan
   78yo female with history of multiple medical problems including type 2
   diabetes mellitus, hypertension, obstructive sleep apnea s/p trach
   placement, and breast cancer was admitted with leukocytosis most likely
   related to C. diff and acute renal failure.
   .
   1. Leukocytosis/c diff +: Pt found to be c diff positive. Given her
   multiple recent hospitalizations and her multiple comorbidities, she is
   certainly at risk for many infections, including pulmonary, GU, or
   bloodstream infections. Plan is the following:
   - continue to treat her C. diff with IV metronidazole and PO vancomycin
   for 14 day course
   - follow-up blood and urine culture
   - follow-up final read of CT Abd/Pelvis and CXR
   .
   2. Concern for sepsis:  Pt dropped SBP to high 70s responding to
   repeated fluid bolus.  Her baseline BPs 110-130s.  Borderline needing
   pressor but no current central access.
   -give FFP (INR 2.4) and then place PICC line vs IJ. Prefer PICC line
   given PEEP and risk for PTX.
   -f/u blood cx
   -maintain Map>60
   -consider A line placement
   .
   3. Hypercarbic respiratory failure: Could be secondary to mental
   status.  Also pt has obesity and OSA.
   -pt placed back on ventilator, get afternoon ABG
   -increasing PEEP given obesity
   -follow daily CXR
   -change PO meds to IV
   .
   4. AMS: Worse this AM likely due to hypercarbic respiratory failure.
   Pt more responsive to family than physicians and thus it is difficult
   to access her mental status.  Monitor today.  If worsens would consider
   LP but afebrile now and no meningeal signs.
   .
   5. Acute Renal Failure
   Patient is in renal failure with creatinine elevated to 2.2 from 1.1 on
   admission and is down to 2 today. Etiology is unclear but is concerning
   for ATN in the setting of hypotension given marked elevation in
   creatinine over 24 hours and given BUN/Creatinine ratio of [**10-7**]:1.
   Prerenal etiology related to dehydration is also possible. No
   additional history to suggest post-renal obstruction.
   - check urine lytes
   - fluid resuscitate to maintain UOP
    .
   5. Hypernatremia: Resolved overnight with D5W
   .
   6. H/o Breast Cancer: Did not get arimidex given pt now on vent and not
   taking POs
   7. Type 2 Diabetes Mellitus  Patient has a history of T2DM and was only
   on insulin sliding scale.
   - continue humalog sliding scale, consider insulin gtt if sugar is not
   well controlled
   8. GERD
   Stable
   - continue PPI
   .
   9. Hyperlipidemia
   Stable
   - continue simvastatin
   10. Atrial Fibrillation
   Patient has a history of atrial fibrillation. She was recently
   restarted on coumadin after her recent admission for GI bleed.
   -d/c coumadin for today given pt needs central access, reverse INR with
   FFP today but would not given vit K
   .
   FEN: replete K+ and Mg and get PM lytes
   .
   Stage II sacral decub:
   -follow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2117-4-16**] 07:40 PM
   18 Gauge - [**2117-4-16**] 08:41 PM
   Multi Lumen - [**2117-4-17**] 02:11 PM
   Arterial Line - [**2117-4-17**] 04:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2117-04-19 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**4-18**]:
   - Hemodynamically stable
   - Failed Pressure support wean
   - PM Lytes with Cr to 2.0
   - Rare casts seen on Urine micro
   - UOP 20-30cc/hr, (improving)
   - UCx grew Klebsiella, sensitive to Ceftriaxone
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-4-18**] 08:15 PM
   Metronidazole - [**2117-4-19**] 02:00 AM
   Vancomycin - [**2117-4-19**] 05:53 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2117-4-18**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-4-19**] 07:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 79 (51 - 95) bpm
   BP: 133/53(78) {103/37(58) - 133/60(87)} mmHg
   RR: 18 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
    CVP: 7 (7 - 13)mmHg
   Total In:
                                                                  1,292 mL
                                                                    721 mL
   PO:
   TF:
   IVF:
                                                                    942 mL
                                                                    221 mL
   Blood products:
   Total out:
                                                                    475 mL
                                                                    295 mL
   Urine:
                                                                    475 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    817 mL
                                                                    426 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 384 (274 - 384) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 40
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.34/47/91/23/0
   Ve: 7.7 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Gen: tired appearing elderly female, obese, no acute distress, resting
   in bed
   HEENT: Clear OP, dry mucous membranes
   NECK: Supple, No LAD, No JVD
   CV: RR, NL rate. NL S1, S2. No murmurs, rubs or gallops
   LUNGS: CTA, BS BL, No W/R/C
   ABD: Obese, Soft, NT, ND. NL BS.  No HSM
   EXT: 1+  edema. 2+ DP pulses BL
   Labs / Radiology
   330 K/uL
   8.3 g/dL
   75 mg/dL
   1.8 mg/dL
   23 mEq/L
   3.5 mEq/L
   24 mg/dL
   110 mEq/L
   144 mEq/L
   26.7 %
   18.1 K/uL
        [image002.jpg]
                             [**2117-4-17**]  03:16 PM
                             [**2117-4-17**]  05:02 PM
                             [**2117-4-18**]  04:10 AM
                             [**2117-4-18**]  04:37 AM
                             [**2117-4-18**]  08:35 AM
                             [**2117-4-18**]  01:14 PM
                             [**2117-4-18**]  01:28 PM
                             [**2117-4-18**]  06:00 PM
                             [**2117-4-19**]  04:00 AM
                             [**2117-4-19**]  04:24 AM
   WBC
   28.4
   24.1
   18.1
   Hct
   26.3
   26.5
   26.7
   Plt
   [**Telephone/Fax (3) 8850**]
   Cr
   2.3
   2.1
   2.0
   1.8
   TropT
   0.11
   0.10
   TCO2
   30
   28
   26
   28
   25
   26
   Glucose
   99
   80
   83
   75
   Other labs: PT / PTT / INR:33.5/56.8/3.5, CK / CKMB /
   Troponin-T:22/3/0.10, ALT / AST:[**11-9**], Alk Phos / T Bili:81/,
   Differential-Neuts:90.5 %, Band:1.0 %, Lymph:6.0 %, Mono:3.3 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL, Ca++:7.7 mg/dL, Mg++:1.8
   mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   78yo female with history of multiple medical problems including type 2
   diabetes mellitus, hypertension, obstructive sleep apnea s/p trach
   placement, and breast cancer was admitted with leukocytosis most likely
   related to C. diff and acute renal failure.
   .
   1. C diff: Pt found to be c diff positive at [**Hospital1 12**].  Patient afebrile
   overnight, WBC continues to trend down.
   - continue IV metronidazole and PO vancomycin for 14 day course after
   last dose of antibiotics for UTI.
   - follow-up blood and urine culture
   .
   2. Klebsiella UTI:  Sensitive to Ceftriaxone.
   -  Continue CTX for 7 day course.
   .
   3. Hypercarbic respiratory failure: Could be secondary to mental
   status.  Also pt has obesity and OSA.  Patient has been trach dependent
   since 80s.
   - Continue Pressure support
   - SBT today.
   .
   4. AMS:  Patient
s mental status is improved, unclear what her true
   basline is.  Pt more responsive to family than physicians and thus it
   is difficult to access her mental status.  Patient opens her eyes to
   commands and is able to move her distal extremities.  [**Month (only) 60**] have resulted
   from hypercarbia, UTI or C. diff infection.
   - Monitor.
   .
   5. Acute Renal Failure:  Improving, Cr trendign downward.  Urine
   negative for casts, will need to follow up final nephrology read.
   Patient has been urinating 15-30cc/hr.  Concern for ATN.
   - f/u Renal recommendations
    .
   5. Hypernatremia: Resolved with free water boluses via OG tube.
   - monitor daily
   .
   6. H/o Breast Cancer: Holding arimidex given pt now on vent and not
   taking POs
   7. Type 2 Diabetes Mellitus  Patient has a history of T2DM and was only
   on insulin sliding scale.
   - continue humalog sliding scale, consider insulin gtt if sugar is not
   well controlled
   8. GERD
   Stable
   - continue PPI
   .
   9. Hyperlipidemia
   Stable
   - continue simvastatin
   10. Atrial Fibrillation: Currently in A-Fib. She was recently restarted
   on coumadin after her recent admission for GI bleed.
   -Continue to hold coumadin
   .
   FEN: replete K+ and Mg and get PM lytes
   .
   Stage II sacral decub:
   -follow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-4-17**] 02:11 PM
   Arterial Line - [**2117-4-17**] 04:36 PM
   Prophylaxis:
   DVT: Supra therapeutic INR
   Stress ulcer: None
   VAP:  Off vent
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Will try to wean off pressure support and if stable
   overnight will transfer back to heb reb.  If unable to wean off
   pressure support will consider transfer to heb reb vent weaning unit as
   patient otherwise stable and just needs to complete course of
   antibiotics.

2117-04-19 11:18:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - STOP [**2117-4-18**] 03:16 PM
 MIDLINE - START [**2117-4-18**] 04:04 PM
 MIDLINE - START [**2117-4-18**] 08:29 PM
 MIDLINE - STOP [**2117-4-18**] 08:34 PM
 MIDLINE - STOP [**2117-4-19**] 12:59 AM
 MIDLINE - START [**2117-4-19**] 01:00 AM
 MIDLINE - STOP [**2117-4-19**] 05:30 AM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-4-18**] 08:15 PM
   Metronidazole - [**2117-4-19**] 02:00 AM
   Vancomycin - [**2117-4-19**] 05:53 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Genitourinary: Foley
   Flowsheet Data as of  [**2117-4-19**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.3
C (97.4
   HR: 75 (68 - 95) bpm
   BP: 122/46(70) {102/37(58) - 133/60(87)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
   CVP: 11 (7 - 13)mmHg
   Total In:
                                                                  1,292 mL
                                                                    831 mL
   PO:
   TF:
   IVF:
                                                                    942 mL
                                                                    261 mL
   Blood products:
   Total out:
                                                                    475 mL
                                                                    345 mL
   Urine:
                                                                    475 mL
                                                                    265 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    817 mL
                                                                    486 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 458 (274 - 458) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 40
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.34/47/91/23/0
   Ve: 10.1 L/min
   PaO2 / FiO2: 260
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.3 g/dL
   330 K/uL
   75 mg/dL
   1.8 mg/dL
   23 mEq/L
   3.5 mEq/L
   24 mg/dL
   110 mEq/L
   144 mEq/L
   26.7 %
   18.1 K/uL
        [image002.jpg]
                             [**2117-4-17**]  03:16 PM
                             [**2117-4-17**]  05:02 PM
                             [**2117-4-18**]  04:10 AM
                             [**2117-4-18**]  04:37 AM
                             [**2117-4-18**]  08:35 AM
                             [**2117-4-18**]  01:14 PM
                             [**2117-4-18**]  01:28 PM
                             [**2117-4-18**]  06:00 PM
                             [**2117-4-19**]  04:00 AM
                             [**2117-4-19**]  04:24 AM
   WBC
   28.4
   24.1
   18.1
   Hct
   26.3
   26.5
   26.7
   Plt
   [**Telephone/Fax (3) 8850**]
   Cr
   2.3
   2.1
   2.0
   1.8
   TropT
   0.11
   0.10
   TCO2
   30
   28
   26
   28
   25
   26
   Glucose
   99
   80
   83
   75
   Other labs: PT / PTT / INR:33.5/56.8/3.5, CK / CKMB /
   Troponin-T:22/3/0.10, ALT / AST:[**11-9**], Alk Phos / T Bili:81/,
   Differential-Neuts:90.5 %, Band:1.0 %, Lymph:6.0 %, Mono:3.3 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL, Ca++:7.7 mg/dL, Mg++:1.8
   mg/dL, PO4:2.7 mg/dL
   Microbiology: C. Diff
   Klebsiella UTI
   Assessment and Plan
   74 yo female with OSA and s/p tracheostomy for treatment who had recent
   LGIB admission for returned with C. Diff treatment and worsening renal
   function in that setting.  Following admission patient has been
   dependent upon pressure support ventilation.
   C. Diff Colitis-
   -Vanco po to continue
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
Patient with obesity but
   chronic capacity to ventilate independently at baseline.  Very
   favorable tolerance of PSV at this time and will move to tracheostomy.
   Was primarily hypercarbic failure initially
   -Move to trach mask trial this morning
   Acute Renal Failure-
   -Renal will follow as well
   -Cr improving with Rx of underlying infection and likley hypovolemia
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2117-4-17**] 02:11 PM
   Arterial Line - [**2117-4-17**] 04:36 PM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2117-04-20 06:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: C dif and ARF
   24 Hour Events:
   - On trach mask most of day
   - Back on vent in evening for increasing resp acidosis
   - Micro NGTD
   - Possible d/c to [**Hospital **] Rehab MACU tmrw
   - NIF trial: 18
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-4-19**] 08:00 PM
   Metronidazole - [**2117-4-20**] 02:08 AM
   Vancomycin - [**2117-4-20**] 05:27 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-4-20**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 63 (60 - 99) bpm
   BP: 118/44(66) {99/38(58) - 152/66(97)} mmHg
   RR: 20 (7 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
    CVP: 11 (11 - 11)mmHg
   Total In:
                                                                  1,810 mL
                                                                    263 mL
   PO:
                                                                    300 mL
                                                                    100 mL
   TF:
   IVF:
                                                                    690 mL
                                                                    163 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    250 mL
   Urine:
                                                                    875 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    855 mL
                                                                     13 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 410 (350 - 458) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 60
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.36/42/87.[**Numeric Identifier 244**]/24/-1
   NIF: -13 cmH2O
   Ve: 8.8 L/min
   PaO2 / FiO2: 251
   Physical Examination
   Gen: tired appearing elderly female, obese, no acute distress, resting
   in bed
   HEENT: Clear OP, dry mucous membranes
   NECK: Supple, No LAD, No JVD
   CV: RR, NL rate. NL S1, S2. No murmurs, rubs or gallops
   LUNGS: CTA, BS BL, No W/R/C
   ABD: Obese, Soft, NT, ND. NL BS.  No HSM
   EXT: 1+  edema. 2+ DP pulses BL
   Labs / Radiology
   307 K/uL
   8.3 g/dL
   72 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.6 mEq/L
   21 mg/dL
   110 mEq/L
   142 mEq/L
   26.6 %
   14.1 K/uL
        [image002.jpg]
                             [**2117-4-18**]  08:35 AM
                             [**2117-4-18**]  01:14 PM
                             [**2117-4-18**]  01:28 PM
                             [**2117-4-18**]  06:00 PM
                             [**2117-4-19**]  04:00 AM
                             [**2117-4-19**]  04:24 AM
                             [**2117-4-19**]  01:50 PM
                             [**2117-4-19**]  06:26 PM
                             [**2117-4-20**]  02:08 AM
                             [**2117-4-20**]  03:53 AM
   WBC
   18.1
   14.1
   Hct
   26.7
   26.6
   Plt
   330
   307
   Cr
   2.0
   1.8
   1.3
   TCO2
   26
   28
   25
   26
   26
   26
   25
   Glucose
   83
   75
   72
   Other labs: PT / PTT / INR:39.2/54.0/4.2, CK / CKMB /
   Troponin-T:22/3/0.10, ALT / AST:[**11-9**], Alk Phos / T Bili:81/,
   Differential-Neuts:90.5 %, Band:1.0 %, Lymph:6.0 %, Mono:3.3 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL, Ca++:7.8 mg/dL, Mg++:2.1
   mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   78yo female with history of multiple medical problems including type 2
   diabetes mellitus, hypertension, obstructive sleep apnea s/p trach
   placement, and breast cancer was admitted with leukocytosis most likely
   related to C. diff and acute renal failure.
   .
   1. C diff: Pt found to be c diff positive at [**Hospital1 12**].  Patient afebrile
   overnight, WBC continues to trend down.
   - continue IV metronidazole and PO vancomycin for 14 day course after
   last dose of antibiotics for UTI.
   - follow-up blood and urine culture
   .
   2. Klebsiella UTI:  Sensitive to Ceftriaxone.
   -  Continue CTX for 7 day course.
   .
   3. Hypercarbic respiratory failure: Could be secondary to mental
   status.  Also pt has obesity and OSA.  Patient has been trach dependent
   since 80s.
   - Continue Pressure support
   - SBT today.
   .
   4. AMS:  Patient
s mental status is improved, unclear what her true
   basline is.  Pt more responsive to family than physicians and thus it
   is difficult to access her mental status.  Patient opens her eyes to
   commands and is able to move her distal extremities.  [**Month (only) 60**] have resulted
   from hypercarbia, UTI or C. diff infection.
   - Monitor.
   .
   5. Acute Renal Failure:  Improving, Cr trendign downward.  Urine
   negative for casts, will need to follow up final nephrology read.
   Patient has been urinating 15-30cc/hr.  Concern for ATN.
   - f/u Renal recommendations
    .
   5. Hypernatremia: Resolved with free water boluses via OG tube.
   - monitor daily
   .
   6. H/o Breast Cancer: Holding arimidex given pt now on vent and not
   taking POs
   7. Type 2 Diabetes Mellitus  Patient has a history of T2DM and was only
   on insulin sliding scale.
   - continue humalog sliding scale, consider insulin gtt if sugar is not
   well controlled
   8. GERD
   Stable
   - continue PPI
   .
   9. Hyperlipidemia
   Stable
   - continue simvastatin
   10. Atrial Fibrillation: Currently in A-Fib. She was recently restarted
   on coumadin after her recent admission for GI bleed.
   -Continue to hold coumadin
   .
   FEN: replete K+ and Mg and get PM lytes
   .
   Stage II sacral decub:
   -follow
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2117-4-17**] 02:11 PM
   Arterial Line - [**2117-4-17**] 04:36 PM
   Prophylaxis:
   DVT: Supra therapeutic INR
   Stress ulcer: None
   VAP:  Off vent
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Will try to wean off pressure support and if stable
   overnight will transfer back to heb reb.  If unable to wean off
   pressure support will consider transfer to heb reb vent weaning unit as
   patient otherwise stable and just needs to complete course of
   antibiotics.

2117-04-20 11:29:00 Physician Attending Progress Note
Chief Complaint: C. diff colitis
   Acute Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2117-4-19**] 01:00 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2117-4-19**] 08:00 PM
   Vancomycin - [**2117-4-20**] 05:27 AM
   Metronidazole - [**2117-4-20**] 10:03 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2117-4-20**] 11:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 79 (60 - 99) bpm
   BP: 147/54(80) {99/39(58) - 154/66(97)} mmHg
   RR: 16 (7 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 63 Inch
             Total In:
                                                                  1,811 mL
                                                                    853 mL
   PO:
                                                                    300 mL
                                                                    540 mL
   TF:
   IVF:
                                                                    691 mL
                                                                    313 mL
   Blood products:
   Total out:
                                                                    955 mL
                                                                    555 mL
   Urine:
                                                                    875 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    856 mL
                                                                    298 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Spontaneous): 410 (350 - 419) mL
   PS : 15 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 35%
   RSBI: 60
   PIP: 21 cmH2O
   SpO2: 100%
   ABG: 7.32/48/86/24/-1
   NIF: -13 cmH2O
   Ve: 8.8 L/min
   PaO2 / FiO2: 246
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   307 K/uL
   72 mg/dL
   1.3 mg/dL
   24 mEq/L
   3.6 mEq/L
   21 mg/dL
   110 mEq/L
   142 mEq/L
   26.6 %
   14.1 K/uL
        [image002.jpg]
                             [**2117-4-18**]  01:14 PM
                             [**2117-4-18**]  01:28 PM
                             [**2117-4-18**]  06:00 PM
                             [**2117-4-19**]  04:00 AM
                             [**2117-4-19**]  04:24 AM
                             [**2117-4-19**]  01:50 PM
                             [**2117-4-19**]  06:26 PM
                             [**2117-4-20**]  02:08 AM
                             [**2117-4-20**]  03:53 AM
                             [**2117-4-20**]  08:22 AM
   WBC
   18.1
   14.1
   Hct
   26.7
   26.6
   Plt
   330
   307
   Cr
   2.0
   1.8
   1.3
   TCO2
   28
   25
   26
   26
   26
   25
   26
   Glucose
   83
   75
   72
   Other labs: PT / PTT / INR:39.2/54.0/4.2, CK / CKMB /
   Troponin-T:22/3/0.10, ALT / AST:[**11-9**], Alk Phos / T Bili:81/,
   Differential-Neuts:90.5 %, Band:1.0 %, Lymph:6.0 %, Mono:3.3 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Albumin:2.5 g/dL, Ca++:7.8 mg/dL, Mg++:2.1
   mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: 7.27/55/69--on mask
   7.36/42/88--PSV--15/5
   7.32/48/86 on mask
   Assessment and Plan
   78 yo female with chronic tracheostomy and admitted with C. Diff
   colitis and acute renal failure from likley pre-renal source.  She has
   had persistent compromise in effective ventilation and had excellent
   tolerance of PSV support overnight with stabilization of PaCO2 with
   support at 15/5.
   1) RESPIRATORY Failure--Acute and Chronic
   -Nocturnal ventilation to continue
   -Maintain cuffed tracheostomy
   -Long term settings would be expected to be [**11-27**] support
   -In light of nocturnal ventilation patient has had improved alertness
   in the morning upon waking
   2)C. Diff Colitis--WBC has improved
   -Vanco po
   3)Acute Renal Failure--Patient with improved Cr noted wtih adequate
   control of colitis and effective volume support.  Creatinine improved
   towards baseline.
   -Will continue to keep I/O even
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2117-4-17**] 04:36 PM
D/C today
   Midline - [**2117-4-18**] 04:04 PM
   Prophylaxis:
   DVT: Coumadin restart to be considered when INR back down to
   therapeutic range
   Stress ulcer: PPI
   VAP: Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
but reasonable to transfer back to [**Hospital1 723**] if they are
   amenable wtih improved C. Diff control, improved renal function and
   night-time ventilatory suppport requirements determined
   Total time spent: 35 minutes